US06949554B2
Synthesis of 4-Benzhydryl-1-(3,3-diphenyl-propionyl)-piperazine-2-carboxylic acid
A mixture of 4-Benzhydryl-1-(3,3-diphenyl-propionyl)-piperazine-2-carboxylic acid ethyl ester (0.51 g, 0.957 mmol), and LiOH.H2O (0.12 g, 2.87 mmol) in THF/MeOH/H2O (15:5:5) was stirred at room temperature for two days. The solvent was evaporated under reduced pressure, the residue was dissolved in water, acidified with 1N HCl to pH 3. The product was extracted with EtOAc, dried with MgSO4, and evaporated under reduced pressure. The product was purified by column chromatography (CH2Cl2:MeOH 15:1) to give the title compound in 95% yield.

reactant | 4-Benzhydryl-1-(3,3-diphenyl-propionyl)-piperazine-2-carboxylic acid ethyl ester | 0.957 mmol, 0.51 g | C(C)OC(=O)C1N(CCN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H36N2O3
reactant | LiOH.H2O | 2.87 mmol, 0.12 g | O[Li].O
solvent | THF MeOH H2O | C1CCOC1.CO.O
product | 4-Benzhydryl-1-(3,3-diphenyl-propionyl)-piperazine-2-carboxylic acid | 95% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(N(CC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C33H32N2O3
